US07612075B2
A. N-(3-Chlorophenyl)-2-methyl-3-phenylacrylamide.
To a solution of 3-chloroaniline (0.98 mL, 9.3 mmol) in CH2Cl2 (25 mL) at 0° C. is added pyridine (0.78 mL, 9.5 mmol). To the resulting solution is added dropwise a solution of α-methyl cinnamic acid chloride (1.6 g, 9.3 mmol) in CH2Cl2 (8 mL). After 3 hours, the solution is concentrated. The crude product is purified by column chromatography eluting with 5% EtOAc/hexanes to 10% EtOAc/hexanes. The title compound is obtained as a solid (2.5 g, 9.2 mmol). 1H NMR (CDCl3, 300 MHz) δ7.95 (m, 1H), 7.73 (s, 1H), 7.46 (m, 1H), 7.33 (m, 6H), 7.22 (m, 1H), 7.03 (m, 1H), 2.13 (s, 3H).

reactant | 3-chloroaniline | 9.3 mmol, 0.98 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | pyridine | 9.5 mmol, 0.78 mL | N1=CC=CC=C1 | C5H5N
reactant | α-methyl cinnamic acid chloride | 9.3 mmol, 1.6 g | CC(C(=O)Cl)=CC1=CC=CC=C1 | C10H9ClO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Chlorophenyl)-2-methyl-3-phenylacrylamide | ClC=1C=C(C=CC1)NC(C(=CC1=CC=CC=C1)C)=O | C16H14ClNO
